US04141982
In a manner analogous to that described in Example 12, 2.7 g of 5-butyryl-6-chloro-1-methyl-benzimidazole-2-methanol are oxidised with 2.5 g of potassium permanganate to give 5-butyryl-6-chloro-1-methyl-benzimidazole-2-carboxylic acid with a melting point of 90° (decomposition).

reactant | 5-butyryl-6-chloro-1-methyl-benzimidazole-2-methanol | 2.7 g | C(CCC)(=O)C1=CC2=C(N(C(=N2)CO)C)C=C1Cl | C13H15ClN2O2
reactant | potassium permanganate | 2.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
product | 5-butyryl-6-chloro-1-methyl-benzimidazole-2-carboxylic acid | C(CCC)(=O)C1=CC2=C(N(C(=N2)C(=O)O)C)C=C1Cl | C13H13ClN2O3
